US08071588B2
5-({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoic acid
To methyl 5-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoate (0.450 g, 1.043 mmol) in MeOH/H2O was added LiOH.H2O and stirred at room temperature for 16 h. The mixture was the acidified with HCl (1 N) and extracted with DCM/i-PrOH (3/1) which was dried over Na2SO4 and concentrated to afford the title compound (0.3606 g, 82.84%). LC-MS m/z 418 (M+H)+.

reactant | methyl 5-({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoate | 1.043 mmol, 0.450 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)OC)=O)CC | C22H33N5O4
reactant | LiOH.H2O | O[Li].O
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH H2O | CO.O
product | 5-({[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino)-5-oxopentanoic acid | 0.3606 g, 82.84% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(CCCC(=O)O)=O)CC | C21H31N5O4
